US07741351B2
3-(2-{[dihydroxy(1-methylethyl)-λ4-sulfanyl]amino}-2,3-dihydro-1H-inden-5-yl)benzenesulfonamide
The title compound was prepared from N-(5-iodo-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide and [3-(aminosulfonyl)phenyl]boronic acid (WO2003004472) in a similar manner to Example 1.

reactant | N-(5-iodo-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide | IC=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C12H16INO2S
reactant | [3-(aminosulfonyl)phenyl]boronic acid | NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C6H8BNO4S
product | 3-(2-{[dihydroxy(1-methylethyl)-λ4-sulfanyl]amino}-2,3-dihydro-1H-inden-5-yl)benzenesulfonamide | OS(C(C)C)(O)NC1CC2=CC=C(C=C2C1)C=1C=C(C=CC1)S(=O)(=O)N | C18H24N2O4S2
